US07772245B2
To a stirred solution of 2-(9-benzyl-1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)pyrimidine-5-carboxylic acid (90 mg) in DCM (5 mL) was added EDCI (74 mg) at 0° C. and the reaction mixture was stirred for 20 min. NH2OTHP (30 mg) was added and the temperature was allowed to attain room temperature. After stirring at room temperature overnight, it was diluted with DCM. The organic layer was washed with water and then concentrated under vacuum. The residue obtained was purified by column chromatography to obtain N-(tetrahydro-2H-pyran-2-yloxy)-2-[9-benzyl-1,3,4,9-tetrahydro-2H-b-carbolin-2-yl]pyrimidine-5-carboxamide (60 mg, 53% yield), m/e=484 (M+1).

reactant | 2-(9-benzyl-1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)pyrimidine-5-carboxylic acid | 90 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2CCN(CC12)C1=NC=C(C=N1)C(=O)O | C23H20N4O2
reactant | EDCI | 74 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH2OTHP | 30 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(tetrahydro-2H-pyran-2-yloxy)-2-[9-benzyl-1,3,4,9-tetrahydro-2H-b-carbolin-2-yl]pyrimidine-5-carboxamide | 60 mg, 53% yield | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC=2N(C3=CC=CC=C3C2CC1)CC1=CC=CC=C1 | C28H29N5O3
